US09062028B2
Step A. Methyl 3-((5-bromo-2-oxopyridin-1(2H)-yl)methyl)benzoate
To a solution of 5-bromopyridin-2-ol (0.250 g, 1.437 mmol) in DMF (1.50 mL) at 0° C., was added NaH (60% in mineral oil, 0.075 g, 1.868 mmol) portion-wise over a period of 10 min. The mixture was warmed to room temperature and stirred for 30 min. To the mixture was added methyl 3-(bromomethyl)benzoate (0.395 g, 1.724 mmol) in one portion. The reaction was stirred at room temperature for 16 h and partitioned between EtOAc and water. The organic layer was washed with water and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to provide the crude material. The crude material was purified by flash chromatography (0-50% ethyl acetate:hexanes) to afford the title compound (0.274 g, 59% yield) as clear pale-yellow oil. LCMS, [M+H]+=322.0. 1H NMR (400 MHz, CDCl3) δ 7.98 (d, J=7.7 Hz, 1H), 7.95 (s, 1H), 7.51 (d, J=7.7 Hz, 1H), 7.43 (t, J=7.7 Hz, 1H), 7.37 (d, J=2.7 Hz, 1H), 7.33 (dd, J=9.7, 2.7 Hz, 1H), 6.52 (d, J=9.7 Hz, 1H), 5.11 (s, 2H), 3.90 (s, 3H).

reactant | 5-bromopyridin-2-ol | 1.437 mmol, 0.250 g | BrC=1C=CC(=NC1)O | C5H4BrNO
reactant | NaH | 1.868 mmol, 0.075 g | [H-].[Na+]
reactant | methyl 3-(bromomethyl)benzoate | 1.724 mmol, 0.395 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | DMF | 1.50 mL | CN(C)C=O | C3H7NO
product | Methyl 3-((5-bromo-2-oxopyridin-1(2H)-yl)methyl)benzoate | 0.274 g, 59% yield | BrC=1C=CC(N(C1)CC=1C=C(C(=O)OC)C=CC1)=O | C14H12BrNO3
